### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry): Zariski's main theorem

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Morphisms/QuasiFinite.lean [hunk 1]
```diff
@@ -289,4 +290,50 @@ lemma locallyQuasiFinite_iff_finite_preimage_singleton
...
+
+/-- A morphism `f : X ⟶ Y` is quasi-finite at `x : X`
+if the stalk map `𝒪_{X, x} ⟶ 𝒪_{Y, f x}` is quasi-finite. -/
+def Scheme.Hom.QuasiFiniteAt (x : X) : Prop := (f.stalkMap x).hom.QuasiFinite
+
+variable {f} in
+lemma Scheme.Hom.QuasiFiniteAt.quasiFiniteAt
+    {x : X} (hx : f.QuasiFiniteAt x) {V : X.Opens} (hV : IsAffineOpen V) {U : Y.Opens}
+    (hU : IsAffineOpen U) (hVU : V ≤ f ⁻¹ᵁ U) (hxV : x ∈ V.1) :
+    letI := (f.appLE U V hVU).hom.toAlgebra
```
Comment (jcommelin) [inline Mathlib/AlgebraicGeometry/Morphisms/QuasiFinite.lean]: Can we avoid this? Should we have a `RingHom.QuasiFiniteAt`?

File: Mathlib/AlgebraicGeometry/ZariskisMainTheorem.lean [hunk 2]
```diff
@@ -0,0 +1,358 @@
...
+      pullbackSpecIso_inv_fst ..
+    simpa [Scheme.Hom.isoOpensRange, ι, g, e₁, RingHom.algebraMap_toAlgebra, φ, H,
+      ← Spec.map_comp, IsFinite.SpecMap_iff]
+  have : IsFinite W₁.ι := .of_comp _ (pullback.snd f _)
+  let W₂ : (pullback f (Spec.map φ ≫ hU.fromSpec)).Opens :=
+    ⟨W₁ᶜ, by simpa using W₁.ι.isClosedMap.isClosed_range⟩
+  refine ⟨Spec (.of R), Spec.map φ ≫ hU.fromSpec,
+    ⟨P, ‹_›⟩, inferInstance, ?_, W₁, W₂, ⟨g ⟨P', ‹_›⟩, ?_⟩, ?_, ‹_›, ?_⟩
+  · change hU.fromSpec ⟨P.comap φ.hom, inferInstance⟩ = _
+    convert hU.fromSpec_primeIdealOf ⟨f x, hxU⟩
```
Comment (jcommelin) [inline Mathlib/AlgebraicGeometry/ZariskisMainTheorem.lean]: Are we missing some rw lemmas?

File: Mathlib/AlgebraicGeometry/Morphisms/QuasiFinite.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Morphisms/QuasiFinite.lean]: I think the issue here is that `Algebra Γ(Y, U) Γ(X, V)` should be an instance but couldn't because of `hVU : V ≤ f ⁻¹ᵁ U`. Maybe we can experiment with having `Fact (V ≤ f ⁻¹ᵁ U)`. 

As for `RingHom.QuasiFiniteAt`, I don't see any applications beyond applying to `(f.appLE U V hVU).hom` for now, and even if one adds such a predicate, the first thing one would do when applying this lemma is to `algebraize[(f.appLE U V hVU).hom]` and turn this back to `Algebra.QuasiFiniteAt`.

So I don't think this justifies having a bunch of API added for this. Unless you are satisfied by a barebones abbrev with virtually no API on it.

File: Mathlib/AlgebraicGeometry/ZariskisMainTheorem.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/ZariskisMainTheorem.lean]: I changed it to a `dsimp` if you prefer it better.

File: Mathlib/AlgebraicGeometry/Morphisms/QuasiFinite.lean [hunk 3]
```diff
@@ -289,4 +290,50 @@ lemma locallyQuasiFinite_iff_finite_preimage_singleton
...
+    Algebra.QuasiFiniteAt Γ(Y, U) (hV.primeIdealOf ⟨x, hxV⟩).asIdeal := by
+  letI := (f.appLE U V hVU).hom.toAlgebra
+  have H : (Y.presheaf.germ U _ (hVU hxV)).hom.QuasiFinite := by
+    let := (Y.presheaf.germ U _ (hVU hxV)).hom.toAlgebra
+    have := hU.isLocalization_stalk ⟨f x, (hVU hxV)⟩
+    rw [← (Y.presheaf.germ U _ (hVU hxV)).hom.algebraMap_toAlgebra,
+      RingHom.quasiFinite_algebraMap]
+    exact .of_isLocalization (hU.primeIdealOf ⟨_, hVU hxV⟩).asIdeal.primeCompl
+  let := (X.presheaf.germ V x hxV).hom.toAlgebra
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Morphisms/QuasiFinite.lean]:
```suggestion
  algebraize [(X.presheaf.germ V x hxV).hom]
```

File: Mathlib/AlgebraicGeometry/Morphisms/QuasiFinite.lean [hunk 4]
```diff
@@ -289,4 +290,50 @@ lemma locallyQuasiFinite_iff_finite_preimage_singleton
...
+
+variable {f} in
+lemma Scheme.Hom.QuasiFiniteAt.quasiFiniteAt
+    {x : X} (hx : f.QuasiFiniteAt x) {V : X.Opens} (hV : IsAffineOpen V) {U : Y.Opens}
+    (hU : IsAffineOpen U) (hVU : V ≤ f ⁻¹ᵁ U) (hxV : x ∈ V.1) :
+    letI := (f.appLE U V hVU).hom.toAlgebra
+    Algebra.QuasiFiniteAt Γ(Y, U) (hV.primeIdealOf ⟨x, hxV⟩).asIdeal := by
+  letI := (f.appLE U V hVU).hom.toAlgebra
+  have H : (Y.presheaf.germ U _ (hVU hxV)).hom.QuasiFinite := by
+    let := (Y.presheaf.germ U _ (hVU hxV)).hom.toAlgebra
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Morphisms/QuasiFinite.lean]:
```suggestion
    algebraize [(Y.presheaf.germ U _ (hVU hxV)).hom]
```

File: Mathlib/AlgebraicGeometry/Morphisms/QuasiFinite.lean [hunk 5]
```diff
@@ -289,4 +290,50 @@ lemma locallyQuasiFinite_iff_finite_preimage_singleton
...
+  have := hV.isLocalization_stalk ⟨x, hxV⟩
+  let e := IsLocalization.algEquiv (hV.primeIdealOf ⟨x, hxV⟩).asIdeal.primeCompl
+    (X.presheaf.stalk (⟨x, hxV⟩ : V.1)) (Localization.AtPrime (hV.primeIdealOf ⟨x, hxV⟩).asIdeal)
+  rw [Algebra.QuasiFiniteAt, ← RingHom.quasiFinite_algebraMap]
+  convert (RingHom.QuasiFinite.of_finite e.finite).comp (hx.comp H)
+  rw [← CommRingCat.hom_comp, f.germ_stalkMap, ← X.presheaf.germ_res (homOfLE hVU) _ hxV,
+    Scheme.Hom.app_eq_appLE, Scheme.Hom.appLE_map_assoc, CommRingCat.hom_comp, ← RingHom.comp_assoc,
+    IsScalarTower.algebraMap_eq Γ(Y, U) Γ(X, V)]
+  congr 1
+  exact e.toAlgHom.comp_algebraMap.symm
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Morphisms/QuasiFinite.lean]:
```suggestion
    IsScalarTower.algebraMap_eq Γ(Y, U) Γ(X, V), e.toAlgHom.comp_algebraMap.symm]
  rfl
```

File: Mathlib/AlgebraicGeometry/ZariskisMainTheorem.lean [hunk 6]
```diff
@@ -0,0 +1,358 @@
...
+universe u
+
+variable {X Y S : Scheme.{u}} (f : X ⟶ S) [LocallyOfFiniteType f]
+
+open TensorProduct in
+-- Note: This is weaker than stacks#02LN but is enough to proof Zariski's main.
+-- TODO: generalize this.
+theorem exists_etale_isCompl_of_quasiFiniteAt [IsSeparated f]
+    {x : X} {s : S} (h : f x = s) (hx : f.QuasiFiniteAt x) :
+    ∃ (U : Scheme) (g : U ⟶ S) (u : U), Etale g ∧ g u = s ∧
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/ZariskisMainTheorem.lean]:
```suggestion
    ∃ (U : Scheme) (g : U ⟶ S), Etale g ∧ s ∈ Set.range g ∧
```

File: Mathlib/AlgebraicGeometry/ZariskisMainTheorem.lean [hunk 7]
```diff
@@ -0,0 +1,358 @@
...
+  have : (hV.primeIdealOf ⟨x, hxV⟩).asIdeal.LiesOver (hU.primeIdealOf ⟨f x, hxU⟩).asIdeal := by
+    suffices hU.primeIdealOf ⟨f x, hxU⟩ = Spec.map (f.appLE U V hUV) (hV.primeIdealOf ⟨x, hxV⟩) from
+      ⟨congr(($this).1)⟩
+    apply hU.isoSpec.inv.homeomorph.injective
+    apply Subtype.ext
+    simp only [IsAffineOpen.primeIdealOf, Scheme.Hom.homeomorph_apply, Scheme.hom_inv_apply]
+    simp only [← Scheme.Hom.comp_apply, ← Scheme.Opens.ι_apply,
+      Category.assoc, IsAffineOpen.isoSpec_inv_ι, IsAffineOpen.SpecMap_appLE_fromSpec _ hU hV,
+      IsAffineOpen.isoSpec_hom, IsAffineOpen.toSpecΓ_fromSpec_assoc]
+    rfl
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/ZariskisMainTheorem.lean]:
```suggestion
    simp only [IsAffineOpen.primeIdealOf, Scheme.Hom.homeomorph_apply,
      ← Scheme.Hom.comp_apply, ← Scheme.Opens.ι_apply, IsAffineOpen.isoSpec_hom]
    simp
```

File: Mathlib/AlgebraicGeometry/ZariskisMainTheorem.lean [hunk 8]
```diff
@@ -0,0 +1,358 @@
...
+    (pullbackSpecIso _ _ _).symm ≪≫ pullbackSymmetry _ _
+  have he₁ : e₁.hom ≫ pullback.fst _ _ =
+      Spec.map (CommRingCat.ofHom Algebra.TensorProduct.includeRight.toRingHom) := by
+    dsimp [e₁, RingHom.algebraMap_toAlgebra]
+    rw [Category.assoc, pullbackSymmetry_hom_comp_fst]
+    exact pullbackSpecIso_inv_snd ..
+  let g : Spec (.of (R ⊗[Γ(S, U)] Γ(X, V))) ⟶ pullback f (Spec.map φ ≫ hU.fromSpec) :=
+    e₁.hom ≫ pullback.map _ _ _ _ hV.fromSpec (𝟙 _) hU.fromSpec
+      (IsAffineOpen.SpecMap_appLE_fromSpec ..) (by simp)
+  let W₁ := g ''ᵁ (PrimeSpectrum.basicOpen e)
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/ZariskisMainTheorem.lean]:
```suggestion
  let W₁ := g ''ᵁ PrimeSpectrum.basicOpen e
```

File: Mathlib/AlgebraicGeometry/ZariskisMainTheorem.lean [hunk 9]
```diff
@@ -0,0 +1,358 @@
...
+    · simp only [Scheme.Hom.resLE_comp_ι, fTnU]
+      refine .paste_vert (isPullback_morphismRestrict ..) ?_
+      have H : IsPullback (pullback.map _ _ _ _ f.toNormalization (𝟙 _) (𝟙 _) (by simp) (by simp))
+          (pullback.fst f fT) (pullback.fst f.fromNormalization fT) f.toNormalization :=
+        .of_right (t := .flip <| .of_hasPullback ..)
+          (by simpa using (.flip <| .of_hasPullback ..)) (by cat_disch)
+      exact .of_iso' H (.refl _) (asIso <| f.normalizationPullback fT) (.refl _) (.refl _)
+        (by cat_disch) (by simp) (by simp [fTn]) (by simp)
+    · simp [← cancel_mono U'.ι, fTnU, fTn]
+  refine MorphismProperty.of_isPullback_of_descendsAlong (P := .isomorphisms _)
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/ZariskisMainTheorem.lean]:
```suggestion
  exact MorphismProperty.of_isPullback_of_descendsAlong (P := .isomorphisms _)
```

File: Mathlib/AlgebraicGeometry/Morphisms/QuasiFinite.lean [hunk 10]
```diff
@@ -290,4 +291,48 @@ lemma locallyQuasiFinite_iff_finite_preimage_singleton
...
+/-- A morphism `f : X ⟶ Y` is quasi-finite at `x : X`
+if the stalk map `𝒪_{X, x} ⟶ 𝒪_{Y, f x}` is quasi-finite. -/
+def Scheme.Hom.QuasiFiniteAt (x : X) : Prop := (f.stalkMap x).hom.QuasiFinite
+
+variable {f} in
+lemma Scheme.Hom.QuasiFiniteAt.quasiFiniteAt
+    {x : X} (hx : f.QuasiFiniteAt x) {V : X.Opens} (hV : IsAffineOpen V) {U : Y.Opens}
+    (hU : IsAffineOpen U) (hVU : V ≤ f ⁻¹ᵁ U) (hxV : x ∈ V.1) :
+    (f.appLE U V hVU).hom.QuasiFiniteAt (hV.primeIdealOf ⟨x, hxV⟩).asIdeal := by
+  letI := (f.appLE U V hVU).hom.toAlgebra
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Morphisms/QuasiFinite.lean]:
```suggestion
  algebraize [(f.appLE U V hVU).hom]
```

File: Mathlib/AlgebraicGeometry/Morphisms/QuasiFinite.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Morphisms/QuasiFinite.lean]: I have added a barebones abbrev with virtually no API on it.
